US06403607B1
2-(4-Chlorophenylthio)nitrobenzene
2-Fluoronitrobenzene (1.5 g) and 4-chlorothio phenol (1.5 g) were dissolved in ethanol (30 ml) and potassium carbonate (1.4 g) was added thereto, followed by stirring at 60° C. for five hours. Subsequently, the solvent was removed under reduced pressure and the residue was dissolved in water (50 ml). The resultant solution was subjected to extraction with ethyl acetate (30 ml×2). The organic layer was washed sequentially with water and saturated brine and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure. The residue was re-crystallized from diethyl ether, to thereby produce the target compound (2.1 g) as pale-brown crystals.

reactant | 2-Fluoronitrobenzene | 1.5 g | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 4-chlorothio phenol | 1.5 g | ClC1=CC=C(C=C1)S | C6H5ClS
reactant | potassium carbonate | 1.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 2-(4-Chlorophenylthio)nitrobenzene | 2.1 g | ClC1=CC=C(C=C1)SC1=C(C=CC=C1)[N+](=O)[O-] | C12H8ClNO2S
